US08030500B2
4-Fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine
1-(3-Bromophenyl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine (272 mg, 0.62 mmol), pyrimidin-5-ylboronic acid (92 mg, 0.74 mmol), cesium carbonate (604 mg, 1.85 mmol) and dichloro[1,1′-bis (diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (50.4 mg, 0.06 mmol) were dissolved in DME:EtOH:water (6:3:1) (5 mL) and irradiated in a microwave oven for 20 min at 150° C. EtOAc, water and brine were added and the organic phase was collected, dried (Na2SO4) and filtered. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC to afford 45 mg (17%) of the title compound.

reactant | 1-(3-Bromophenyl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine | 0.62 mmol, 272 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=C(C(=C1)C)OC)C | C22H19BrFN3O
reactant | pyrimidin-5-ylboronic acid | 0.74 mmol, 92 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 1.85 mmol, 604 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME EtOH water | 5 mL | COCCOC.CCO.O
solvent | brine | [Cl-].[Na+].O
catalyst | dichloro[1,1′-bis (diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.06 mmol, 50.4 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | O | H2O
product | 4-Fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 45 mg, 17% | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=NC(=C(C(=C1)C)OC)C)N | C26H22FN5O
